US04198425
4-(p-Benzyloxyphenyl)-3-buten-2-one
A solution of 10.0 g of p-benzyloxybenzaldehyde and 15.7 g of acetylmethylenetriphenylphosphorane in 100 ml of toluene was heated under reflux for 2 hours, the solvent was then evaporated and the residual crystals were recrystallized from ether to give 9.5 g of the desired compound melting at 106°-107° C.

reactant | p-benzyloxybenzaldehyde | 10.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | acetylmethylenetriphenylphosphorane | 15.7 g | C(C)(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(p-Benzyloxyphenyl)-3-buten-2-one | 9.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=CC(C)=O | C17H16O2
